US08664217B2
2-Nitrobenzenesulfonyl chloride (4.9 g, 22 mmol) was added to a dichloromethane solution (100 ml) of tert-butyl (2-aminoethyl)methylcarbamate (3.5 g, 20 mmol) and triethylamine (3.3 ml, 24 mmol) at 0° C., and stirred at room temperature overnight. Water was added to the reaction mixture, and extraction with dichloromethane was performed. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:2→2:3). The purified product was concentrated under reduced pressure to thereby obtain 5.06 g (yield: 70%) of tert-butyl methyl-[2-(2-nitrobenzenesulfonylamino)ethyl]carbamate as a yellow oil.

reactant | 2-Nitrobenzenesulfonyl chloride | 22 mmol, 4.9 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | tert-butyl (2-aminoethyl)methylcarbamate | 20 mmol, 3.5 g | NCCN(C(OC(C)(C)C)=O)C | C8H18N2O2
reactant | triethylamine | 24 mmol, 3.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | tert-butyl methyl-[2-(2-nitrobenzenesulfonylamino)ethyl]carbamate | 5.06 g, yield: 70% | CN(C(OC(C)(C)C)=O)CCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C14H21N3O6S
